US07008957B2
10d) tert-Butyl (3S,5R,6S)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]morpholine-4-carboxylate
1.8 g of tert-butyl (3R,5R,6S)-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]morpholine-4-carboxylate were dissolved in 20 ml of THF. 2.5 ml of 15-crown-5 were added, and the mixture was cooled to −78° C. Then 1.9 ml of a 2 M solution of NaHMDS in THF were added dropwise. The mixture was stirred for 10 min and then 805 μl of allyl bromide were added dropwise. The mixture was allowed to warm to 0° C. over the course of 6 h, and then the reaction was stopped by adding 100 ml of saturated ammonium chloride solution. The aqueous phase was extracted 3 times with 100 ml of ethyl acetate each time, and the combined organic phases were dried with MgSO4. The solvents were removed in vacuo, and the residue was chromatographed on silica gel.

reactant | tert-butyl (3R,5R,6S)-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]morpholine-4-carboxylate | 1.8 g | O=C1[C@H](N([C@@H]([C@@H](O1)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C32H44N2O6Si
reactant | 15-crown-5 | 2.5 ml | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | allyl bromide | 805 μl | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-Butyl (3S,5R,6S)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]morpholine-4-carboxylate | C(C=C)[C@]1(N([C@@H]([C@@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C35H48N2O6Si
